* F:\A_Univercity\Term_9\ELE_3\Project\Phase_2\V2\Project.asc
M1 N002 N004 N007 0 NMOS12
M2 N003 N005 N007 0 NMOS12
M3 N009 N004 N015 vcc PMOS
M4 N009 N005 N014 vcc PMOS
M5 N002 N006 N011 vcc PMOS
M6 N003 N006 N012 vcc PMOS
M7 vcc N001 N002 vcc PMOS
M8 vcc N001 N003 vcc PMOS
M9 N011 N013 N015 0 NMOS
M10 N012 N013 N014 0 NMOS
M11 N015 N016 N017 0 NMOS
M12 N014 N016 N017 0 NMOS
V1 vcc 0 1.8
V2 N005 0 SINE(0.714 1.5 1k 0 0 180) AC 0.5 180 Rser=1k
V3 N004 0 SINE(0.714 1.5 1k 0 0 0) AC 0.5 0 Rser=1k
M15 N018 N018 0 0 NMOS
M16 N007 N018 0 0 NMOS
M17 vcc N001 N001 vcc PMOS
M18 vcc N001 N009 vcc PMOS
R1 N001 N018 24.3k
R2 N006 0 10k
R3 vcc N006 10k
R4 N013 0 10k
R5 vcc N013 6.36k
M21 N017 N011 0 0 NMOS
M22 N017 N012 0 0 NMOS
R6 N016 0 10k
R7 vcc N016 11.68k
R8 N005 N008 1k
R9 N010 N004 1k
E1 N010 0 N011 0 1
E2 N008 0 N012 0 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\smsaj\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.model  Nmos12    NMOS  LEVEL=1 vto=0.6  KP=0.25  NSUB=5000000G
+UO=280         TOX=3.4n        LAMBDA=0.2      GAMMA=0.45      PHI=0.9         LD=0.025u       CGDO=0.2n
+CJ=1.2m        CJSW=0.02n    w=100u                l=0.18u
.model  Pmos34    PMOS  LEVEL=1 vto=-0.6  KP=0.08 NSUB=5000000G
+UO=90          TOX=3.4n        LAMBDA=0.2      GAMMA=0.4       PHI=0.9         LD=0.025u       CGDO=0.2n
+CJ=1.2m        CJSW=0.02n    w=1u                l=0.18u
.model  Nmos2122    NMOS  LEVEL=1 vto=0.6  KP=0.25  NSUB=5000000G
+UO=280         TOX=3.4n        LAMBDA=0.2      GAMMA=0.45      PHI=0.9         LD=0.025u       CGDO=0.2n
+CJ=1.2m        CJSW=0.02n    w=0.3n                l=0.18u
.model  Nmos1112    NMOS  LEVEL=1 vto=0.6  KP=0.25  NSUB=5000000G
+UO=280         TOX=3.4n        LAMBDA=0.2      GAMMA=0.45      PHI=0.9         LD=0.025u       CGDO=0.2n
+CJ=1.2m        CJSW=0.02n    w=0.7u                l=0.18u
.model  Nmos910    NMOS  LEVEL=1 vto=0.6  KP=0.25  NSUB=5000000G
+UO=280         TOX=3.4n        LAMBDA=0.2      GAMMA=0.45      PHI=0.9         LD=0.025u       CGDO=0.2n
+CJ=1.2m        CJSW=0.02n    w=10u                l=0.18u
.model  Nmos1516    NMOS  LEVEL=1 vto=0.6  KP=0.25  NSUB=5000000G
+UO=280         TOX=3.4n        LAMBDA=0.2      GAMMA=0.45      PHI=0.9         LD=0.025u       CGDO=0.2n
+CJ=1.2m        CJSW=0.02n    w=147u                l=0.18u
.model  Pmos1718    PMOS  LEVEL=1 vto=-0.6  KP=0.08 NSUB=5000000G
+UO=90          TOX=3.4n        LAMBDA=0.2      GAMMA=0.4       PHI=0.9         LD=0.025u       CGDO=0.2n
+CJ=1.2m        CJSW=0.02n    w=2u                l=0.18u
.model  Pmos56    PMOS  LEVEL=1 vto=-0.6  KP=0.08 NSUB=5000000G
+UO=90          TOX=3.4n        LAMBDA=0.2      GAMMA=0.4       PHI=0.9         LD=0.025u       CGDO=0.2n
+CJ=1.2m        CJSW=0.02n    w=20u                l=0.18u
.model  Pmos78    PMOS  LEVEL=1 vto=-0.6  KP=0.08 NSUB=5000000G
+UO=90          TOX=3.4n        LAMBDA=0.2      GAMMA=0.4       PHI=0.9         LD=0.025u       CGDO=0.2n
+CJ=1.2m        CJSW=0.02n    w=2u                l=0.18u
.ac dec 50 1 10000g
.backanno
.end
